* ECE334 Lab 4 -- 6T SRAM cell: WRITE '1' followed by READ
*
*                  vdd            vdd
*                   |              |
*             P3 ---+---.    .-----+--- P4          precharge devices
*                        |    |
*      bit -------[N2]---A    A_b---[N4]------- bit_b
*                        |    |
*        P1 vdd->A (gate A_b) ; P2 vdd->A_b (gate A)      cross-coupled
*        N1 A->vss (gate A_b) ; N3 A_b->vss (gate A)      inverters
*
*      write drivers: N5(write)+N7(data_b) pull bit down
*                     N6(write)+N8(data)   pull bit_b down
*
* Sizing satisfies both stability conditions from P1:
*   read  : W(driver) >= 2.7 * W(access)   2.0 >= 2.7*0.7 = 1.89   OK
*   write : W(access) >= 1.2 * W(load)     0.7 >= 1.2*0.5 = 0.60   OK
*
* Override a width on the command line to break one of them deliberately:
*   ngspice -b sram6t.spice                       nominal
*   sed 's/WDRV=2.0/WDRV=0.6/'  -> read fails     (L6)
*   sed 's/WACC=0.7/WACC=0.5/'  -> write fails    (L7)

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param WLOAD=0.5      $ P1, P2   cell load PMOS
.param WACC=0.7       $ N2, N4   access
.param WDRV=2.0       $ N1, N3   driver
.param WPER=8.0       $ P3-P4, N5-N8  periphery
.param LL=0.5
.param CBIT=1p

Vdd vdd 0 1.8
Vss vss 0 0

* ---- stimulus, from the handout's Figure 3 (times in ns) ------------------
* precharge  high 1-9 and 20-29     (high = precharging)
* word       high 10-19 and 29-50
* write      high 10-19
* data       held at VDD, so the write stores a 1
Vpre  pre   0 PWL(0 0  1n 0  1.05n 1.8  9n 1.8  9.05n 0  20n 0
+                 20.05n 1.8  29n 1.8  29.05n 0  50n 0)
Vword word  0 PWL(0 0  10n 0  10.05n 1.8  19n 1.8  19.05n 0  29n 0
+                 29.05n 1.8  50n 1.8)
Vwr   write 0 PWL(0 0  10n 0  10.05n 1.8  19n 1.8  19.05n 0  50n 0)
Vdata data  0 1.8

* ---- precharge, gated by the inverted precharge signal --------------------
XIP pre_b pre vdd vdd sky130_fd_pr__pfet_01v8 W={WPER} L={LL}
XIN pre_b pre vss vss sky130_fd_pr__nfet_01v8 W={WPER/3} L={LL}
XP3 bit   pre_b vdd vdd sky130_fd_pr__pfet_01v8 W={WPER} L={LL}
XP4 bit_b pre_b vdd vdd sky130_fd_pr__pfet_01v8 W={WPER} L={LL}

* ---- the cell ------------------------------------------------------------
XP1 a   a_b vdd vdd sky130_fd_pr__pfet_01v8 W={WLOAD} L={LL}
XN1 a   a_b vss vss sky130_fd_pr__nfet_01v8 W={WDRV}  L={LL}
XP2 a_b a   vdd vdd sky130_fd_pr__pfet_01v8 W={WLOAD} L={LL}
XN3 a_b a   vss vss sky130_fd_pr__nfet_01v8 W={WDRV}  L={LL}
XN2 bit   word a   vss sky130_fd_pr__nfet_01v8 W={WACC} L={LL}
XN4 bit_b word a_b vss sky130_fd_pr__nfet_01v8 W={WACC} L={LL}

* ---- write drivers -------------------------------------------------------
XDP data_b data vdd vdd sky130_fd_pr__pfet_01v8 W={WPER} L={LL}
XDN data_b data vss vss sky130_fd_pr__nfet_01v8 W={WPER/3} L={LL}
XN5 bit   write n5d vss sky130_fd_pr__nfet_01v8 W={WPER} L={LL}
XN7 n5d   data_b vss vss sky130_fd_pr__nfet_01v8 W={WPER} L={LL}
XN6 bit_b write n6d vss sky130_fd_pr__nfet_01v8 W={WPER} L={LL}
XN8 n6d   data  vss vss sky130_fd_pr__nfet_01v8 W={WPER} L={LL}

* ---- bit line capacitance ------------------------------------------------
Cb  bit   vss {CBIT}
Cbb bit_b vss {CBIT}

* The cell has two stable states; tell the simulator which one to start in,
* or the DC solution is arbitrary and the write has nothing to overwrite.
.ic v(a)=0 v(a_b)=1.8

.tran 10p 50n

.control
run
set filetype=ascii
write sram6t.raw v(pre) v(word) v(write) v(bit) v(bit_b) v(a) v(a_b)

echo "--- internal nodes after the write (t = 19 ns) ---"
meas tran a_after_write   FIND v(a)   AT=19n
meas tran ab_after_write  FIND v(a_b) AT=19n

echo "--- read disturb: how far does the LOW node rise while reading? ---"
* After writing a 1, a is high and a_b is low, so a_b is the node at risk.
meas tran ab_read_peak MAX v(a_b) FROM=29.1n TO=50n

echo "--- read time: word rising to 200 mV of bit-line separation ---"
* bit_b is the side tied to the low internal node, so it is the one that falls.
* Measure from the SECOND word rise (the read) -- the first is the write, where
* the driver pulls bit_b down and the bit lines separate for a different reason.
let dbit = v(bit) - v(bit_b)
* RISE=2 on both: the first crossing belongs to the write phase, where the
* driver separates the bit lines for a different reason.
meas tran t_read TRIG v(word) VAL=0.9 RISE=2 TARG dbit VAL=0.2 RISE=2
.endc
.end
